US05972965
A solution of 2-amino-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (0.96 g), (4,5-diphenyloxazol-2-yl)methyl bromide (0.80 g) and potassium carbonate (0.41 g) in DMF (14 ml) was stirred for 3.5 hours at room temperature. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine. The dried solvent was evaporated in vacuo to give crude 2-[(4,5-diphenyloxazol-2-yl)methylamino]-1,2,3,4-tetrahydro-5-t-butyldiphenylsilyloxynaphthalene. To a solution of crude 2-[(4,5-diphenyloxazol-2-yl)methylamino]-1,2,3,4-tetrahydro-5-t-butyldiphenylsilyloxynaphthalene in THF (5 ml) was added 1M THF (3 ml) solution of tetrabutylammonium fluoride. After being stirred for 1 hour at room temperature, the mixture was partitioned between ethyl acetate and sat. NaHCO3. The organic layer was washed with brine. The dried solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give 2-[(4,5-diphenyloxazol-2-yl)methylamino]-1,2,3,4-tetrahydro-5-hydroxynaphthalene (0.66 g). MS (m/z): 397 (M+ +1) NMR (CDCl3, δ): 1.54-1.84 (2H, m), 2.08-2.22 (1H, m), 2.48-3.20 (5H, m), 4.13 (2H, s), 6.58 (1H, d, J=7.8 Hz), 6.68 (1H, d, J=7.8 Hz), 6.99 (1H, dd, J=7.8, 7.8 Hz), 7.34-7.40 (6H, m), 7.55-7.66 (4H, m)

reactant | 2-amino-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 0.96 g | NC1CC2=CC=CC(=C2CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H31NOSi
reactant | (4,5-diphenyloxazol-2-yl)methyl bromide | 0.80 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CBr | C16H12BrNO
reactant | potassium carbonate | 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[(4,5-diphenyloxazol-2-yl)methylamino]-1,2,3,4-tetrahydro-5-t-butyldiphenylsilyloxynaphthalene | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CNC1CC2=CC=CC(=C2CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C42H42N2O2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1M, 3 ml | C1CCOC1 | C4H8O
product | 2-[(4,5-diphenyloxazol-2-yl)methylamino]-1,2,3,4-tetrahydro-5-hydroxynaphthalene | 0.66 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CNC1CC2=CC=CC(=C2CC1)O | C26H24N2O2
